US04070366
2,4-Dimethyl-3-acetyl-5-(1-carboxy-ethyl)-pyrrole
A solution of 548 mg. of 2,4-dimethyl-3-acetyl-pyrrole in 10 ml of hydriodic acid and 2 ml of 50% hypophosphorous acid was treated with 0.4 ml of pyruvic acid and stirred for 10 min, when yellow crystals separated. After standing for 2 days at 0° C. the crystals were separated, dried and slurried with 5 ml of water. The resulting colourless product was separated, washed with water, dried and recrystallized from ether (thimble) as pale yellow plates (46%), m.p. 156°-158° C. (dec.).

reactant | 2,4-dimethyl-3-acetyl-pyrrole | CC=1NC=C(C1C(C)=O)C | C8H11NO
reactant | pyruvic acid | 0.4 ml | C(C(=O)C)(=O)O | C3H4O3
solvent | hydriodic acid | 10 ml | I | HI
solvent | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
product | 2,4-Dimethyl-3-acetyl-5-(1-carboxy-ethyl)-pyrrole | CC=1NC(=C(C1C(C)=O)C)C(C)C(=O)O | C11H15NO3
